US07408065B2
N-(Cyclohexylmethyl)-6-methyl-5-quinolinecarboxamide
Prepared according to the method of example 42, using 5-bromo-6-methylquinoline (prepared according to the method of Khimiya Geterotsiklicheskikh Soedinenii 1988, 8, 1084) (4.0 g), cyclohexanemethylamine (4.2 mL), triethylamine (2.4 mL), dichlorobis(triphenylphosphine)palladium(II) (1.6 g) in N-methylpyrrolidinone (40 mL) to afford the title compound (3.9 g)

reactant | 5-bromo-6-methylquinoline | BrC1=C2C=CC=NC2=CC=C1C | C10H8BrN
reactant | cyclohexanemethylamine | 4.2 mL | C1(CCCCC1)CN | C7H15N
reactant | triethylamine | 2.4 mL | C(C)N(CC)CC | C6H15N
reactant | N-methylpyrrolidinone | 40 mL | CN1C(CCC1)=O | C5H9NO
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 1.6 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-(Cyclohexylmethyl)-6-methyl-5-quinolinecarboxamide | 3.9 g | C1(CCCCC1)CNC(=O)C=1C=2C=CC=NC2C=CC1C | C18H22N2O
